US06525042B1
2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-6,6-dimethyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridinium iodide
In N,N-dimethylformamide (20 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (200 mg) was dissolved, followed by the addition of methyl iodide (0.05 ml) and potassium carbonate (79 mg). The resulting mixture was stirred overnight at 80° C. After the reaction mixture was concentrated under reduced pressure, the residue was added with water and the resulting precipitate was collected by filtration. The precipitate was then dissolved in a mixed solvent (1:1) of dichloromethane and methanol, followed by the addition of ethyl acetate. The resulting precipitate was collected by filtration, whereby the title compound (144 mg, 56%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 200 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2N1)C
reactant | methyl iodide | 0.05 ml | CI | CH3I
reactant | potassium carbonate | 79 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-6,6-dimethyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridinium iodide | [I-].ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2[NH+]1)(C)C | InChI=1S/C23H25ClN4O3S2.HI/c1-23(2)13-19-20(14-25-23)32-21(26-19)22(29)27-7-9-28(10-8-27)33(30,31)18-6-4-15-11-17(24)5-3-16(15)12-18;/h3-6,11-12,25H,7-10,13-14H2,1-2H3;1H
